US04168385
(p-Chlorophenoxy)[p-(p-chlorophenoxy)phenyl]acetic acid
To a solution of 10 g of KOH in 80 ml of 50% methanol is added 30.2 g of methyl (p-chlorophenoxy)-[p-(p-chlorophenoxy)phenyl]acetate. The mixture is refluxed for 3 hours, cooled, poured into 100 ml of water. The solution is extracted with two 100-ml portions of ether. The aqueous layer is acidified with concentrated hydrochloric acid. The mixture is extracted with two 100-ml portions of ether and the extracts are washed with water, brine and dried (MgSO4). Evaporation of the solvent yields an oil which is triturated with petroleum ether to give 27.5 g of product as white crystals. Recrystallization from hexane-chloroform gives white plates, mp 141°-142° C.

reactant | KOH | 10 g | [OH-].[K+]
reactant | methyl (p-chlorophenoxy)-[p-(p-chlorophenoxy)phenyl]acetate | 30.2 g | ClC1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OC2=CC=C(C=C2)Cl)C=C1 | C21H16Cl2O4
reactant | water | 100 ml | O | H2O
solvent | methanol | 80 ml | CO | CH4O
product | (p-Chlorophenoxy)[p-(p-chlorophenoxy)phenyl]acetic acid | 27.5 g | ClC1=CC=C(OC(C(=O)O)C2=CC=C(C=C2)OC2=CC=C(C=C2)Cl)C=C1 | C20H14Cl2O4
